data/rdb19/train.csv
rxn,smiles,ea
979,[C:14]([C:15]([C:16]([C:17]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:19]([H:31])([H:32])[H:33])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([C:17]([H:25])([H:26])[H:27])([C:18]([H:28])[H:30])[C:19]([H:31])([H:32])[H:33])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([H:5])[H:29])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],22.295634841895662
4198,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3]([O:4][H:28])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],36.15410784026608
2644,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:32])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[N:24]([C:25](=[O:26])[H:37])[H:36])([H:30])[H:31])([H:27])([H:28])[H:29],20.48370990308468
1279,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14](=[C:15]([N:16]([C:17]=[O:18])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],20.824390091293026
2283,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[C:8]([H:17])([H:18])[H:19])([H:5])([H:6])[H:7].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21],59.07790973474039
4072,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])([O:24][C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[O:25][H:31])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]1([C:4]([H:14])([H:15])[H:16])[C:5]([O:6][H:13])([O:7][C:8]([H:17])([H:18])[H:19])[O:24][C:23]1([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])[O:25][H:31])[H:12])([H:9])([H:10])[H:11],56.58149311185116
3066,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:19])[H:20].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],57.906542729062494
3105,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],9.6309809301747
5012,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:20])([H:17])([H:18])[H:19].[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[H:21])([H:5])([H:6])[H:7],41.397509363421705
3968,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([H:13])[H:14])([H:10])([H:11])[H:12].[C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])([C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])[C:24]([H:25])([H:26])[H:27],63.30095327866729
3582,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],20.81462640830432
